US04526719
To a solution of p-nitrophenyl 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoate (4.73 g, 10 mmol) and D-phenylalanine (1.65 g, 10 mmol) in N,N-dimethylformamide (30 ml), was added triethylamine (1.4 ml, 10 mmol). The mixture was stirred at room temperature for 2 days, whereupon the insoluble matter almost disappeared. The solvent was distilled off under reduced pressure and the residue was chromatographed on a column of silica gel (100 g). The column was washed well with chloroform and elution with chloroform-methanol-acetic acid (18:2:1, v/v) gave 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-D-phenylalanine (2.56 g), melting at 96°-98° C., after washing up in the usual way.

reactant | p-nitrophenyl 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoate | 10 mmol, 4.73 g | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H31NO8
reactant | D-phenylalanine | 10 mmol, 1.65 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-D-phenylalanine | 2.56 g | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O)=O | C28H37NO7
